### PR TITLE
Further rotation refactoring and stronger byte decomposition

### PR DESCRIPTION
**Pull request by gio54321**
- Fix byte decomposition constraints and spec
- Refactor rotation into more sub-gadgets

### CODE REVIEW

File: Clean/Circuit/Lawful.lean [hunk 1]
```diff
@@ -71,6 +71,25 @@ instance LawfulCircuit.from_bind {f: Circuit F α} {g : α → Circuit F β}
     show (g _ _).2 = _
     rw [append_only, output_independent, append_only, Operations.append_assoc]
 
+
+instance LawfulCircuit.from_map {f : α → β} {g : Circuit F α}
```
Comment (gio54321) [inline Clean/Circuit/Lawful.lean:75]: Unrelated changes that allow deriving `LawfulCircuit` from an `fmap`
In the end, I did not use this to simplify the rotation circuit

File: Clean/Gadgets/ByteDecomposition/ByteDecomposition.lean [hunk 2]
```diff
@@ -0,0 +1,205 @@
...
+        apply Nat.pow_lt_pow_of_lt
+        simp only [Nat.one_lt_ofNat, two_power]
+        simp only [Fin.is_lt, two_power]
+      linarith [p_large_enough.elim]
+    )
+
+  let high ← witness fun env => FieldUtils.floordiv (env x) (2^offset.val)
+
+  lookup (TwoPowerLookup.lookup (offset.castSucc) low)
+  lookup (TwoPowerLookup.lookup (8 - offset.castSucc) high)
```
Comment (gio54321) [inline Clean/Gadgets/ByteDecomposition/ByteDecomposition.lean:51]: This gadget was underconstrained!
Now it is looking up into a table containing all naturals less than a power of two.
I didn't notice until I tried to prove soundness for a stronger spec, namely
```
low.val = x.val % (2^offset.val) ∧ high.val = x.val / (2^offset.val)
```

File: Clean/Gadgets/ByteDecomposition/Theorems.lean [hunk 3]
```diff
@@ -0,0 +1,199 @@
...
+  set x_b := UInt32.ofNat x.val
+
+  -- The heavy lifting is done by using a SAT solver
+  have h_decomposition_bv (base : UInt32) :
+      base < 256 →
+      low_b < base →
+      high_b < 256 / base →
+      x_b < 256 → x_b = low_b + high_b * base →
+      low_b = x_b % base ∧ high_b = x_b / base := by
+    bv_decide
```
Comment (gio54321) [inline Clean/Gadgets/ByteDecomposition/Theorems.lean:118]: The main statement is proved using `bv_decide`, the rest is just convincing Lean that everything fits into a `UInt32`.
We should really update Mathlib to access some of the convenience theorems about `UInt32`, like [this one](https://leanprover-community.github.io/mathlib4_docs/Init/Data/UInt/Lemmas.html#UInt32.ofNat_lt_iff_lt), which would simplify the rest of the proof.

I tried updating to `4.19`, but a lot of basic stuff broke, so this needs to be done in a separate PR.

File: Clean/Gadgets/Rotation64/Rotation64.lean [hunk 4]
```diff
@@ -20,57 +19,97 @@ open Bitwise (rot_right64)
...
-  assert_zero (x3_l * ((2 : ℕ)^(8 - bit_offset) : F p) + x2_h - y2)
-  assert_zero (x4_l * ((2 : ℕ)^(8 - bit_offset) : F p) + x3_h - y3)
-  assert_zero (x5_l * ((2 : ℕ)^(8 - bit_offset) : F p) + x4_h - y4)
-  assert_zero (x6_l * ((2 : ℕ)^(8 - bit_offset) : F p) + x5_h - y5)
-  assert_zero (x7_l * ((2 : ℕ)^(8 - bit_offset) : F p) + x6_h - y6)
-  assert_zero (x0_l * ((2 : ℕ)^(8 - bit_offset) : F p) + x7_h - y7)
-  return ⟨ y0, y1, y2, y3, y4, y5, y6, y7 ⟩
+  -- rotation is performed by combining a bit and a byte rotation
+  let byte_rotated ← subcircuit (Rotation64Bytes.circuit byte_offset) x
+  subcircuit (Rotation64Bits.circuit bit_offset) byte_rotated
```
Comment (gio54321) [inline Clean/Gadgets/Rotation64/Rotation64.lean:27]: The new definition of full 64-bit rotation is very simple, and the proofs are relatively straightforward.

File: Clean/Types/U64.lean [hunk 5]
```diff
@@ -229,4 +230,67 @@ def U64.witness (compute : Environment (F p) → U64 (F p)) := do
   assertion U64.AssertNormalized.circuit x
   return x
 
+
+namespace U64.Copy
+
+def u64_copy (x : Var U64 (F p)) : Circuit (F p) (Var U64 (F p))  := do
```
Comment (gio54321) [inline Clean/Types/U64.lean:236]: Also unrelated, I tried simplifying the variable offset dependencies by copying the resulting U64.
This gadget is not used anywhere, but maybe it could be helpful in the future.

File: Clean/Gadgets/Rotation64/Theorems.lean [hunk 6]
```diff
@@ -7,6 +7,41 @@ variable {p : ℕ} [Fact p.Prime]
...
+  simp only [rot_right64]
+  rw [Nat.mod_eq_of_lt offset.is_lt]
+
+theorem rot_right_composition (x n m : ℕ) (h : x < 2^64) :
+    rot_right64 (rot_right64 x n) m = rot_right64 x (n + m) := by
+  rw [rot_right64_eq_bv_rotate _ h,
+    rot_right64_eq_bv_rotate _ h,
+    rot_right64_eq_bv_rotate _ (by sorry)]
+
+  sorry
```
Comment (gio54321) [inline Clean/Gadgets/Rotation64/Theorems.lean:43]: This proof is still TODO, but it should not be too difficult.
I think the right strategy is to prove the equivalence of `rot_right64` with the built-in right rotation over bit vectors.

**Review by gio54321 — COMMENTED** [review]
Some comments

File: Clean/Gadgets/TwoPowerLookup.lean [hunk 7]
```diff
@@ -0,0 +1,60 @@
+import Clean.Circuit.Basic
+import Clean.Utils.Field
+
+namespace Gadgets.TwoPowerLookup
+variable {p : ℕ} [Fact (p ≠ 0)] [Fact p.Prime]
+variable [p_large_enough: Fact (p > 512)]
+
+def from_byte_limb {two_power : Fin 9} (x: Fin (2 ^ two_power.val)) : F p :=
```
Comment (mitschabaude) [inline Clean/Gadgets/TwoPowerLookup.lean]: nit: I think `exponent` or `two_exponent` would be better names for `two_power` in this file

**Review by mitschabaude — APPROVED** [review]
great progress, you can merge this with the todos if you want
